US04057417
Preparation of 4-benzylideneamino-6-sec.-butyl-3-methylthio-1,2,4-triazin-5(4H)-one
21.4 g of 4-amino-6-sec.-butyl-3-methylthio-1,2,4-triazin-5(4H)-one and 11.0 ml of benzaldehyde, dissolved in 50 ml of isopropanol, were briefly heated to the reflux temperature after adding 0.1 g of p-toluenesulfonic acid. On cooling to 0° C, 23.2 g of crude product crystallized out and were purified further by dissolving in 200 ml of boiling toluene. A small amount of a high-melting by-product crystallized out at 0° C and was filtered off and discarded. On concentration on a rotary evaporator, the mother liquor left 21.1 g (70%) of a pale oil which crystallized after trituration with a little methanol. The pure 4-benzylideneamino-6-sec.-butyl-3-methylthio-1,2,4-triazine-5 (4H)-one melted at 73° C.

reactant | 4-amino-6-sec.-butyl-3-methylthio-1,2,4-triazin-5(4H)-one | 21.4 g | NN1C(=NN=C(C1=O)C(C)CC)SC | C8H14N4OS
reactant | benzaldehyde | 11.0 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-benzylideneamino-6-sec.-butyl-3-methylthio-1,2,4-triazin-5(4H)-one | C(C1=CC=CC=C1)=NN1C(=NN=C(C1=O)C(C)CC)SC | C15H18N4OS
